US06274688B1
A 50-mL two-necked flask is purged with nitrogen and then charged with 2-allyloxyethanol (2.5 mL, 23.4 mmol), pyridine (3 mL) and THF (10 mL). The solution is cooled to 0° C., and 2-bromopropionyl chloride (2 mL, 19.52 mmol) is added dropwise slowly. The resulting mixture is stirred at that temperature for an hour, then ethyl acetate (10 mL) is added, and the resulting pyridine hydrochloride is filtered off. The filtrate is washed with dilute hydrochloric acid (10 mL), then with an aqueous solution of NaHCO3 (10 mL) and further with brine (10 mL). The organic layer is dried over Na2SO4 and the volatile matter is distilled off under reduced pressure. The crude product thus obtained is distilled under reduced pressure to give allyloxyethyl 2-bromopropionate (78.5-81 (1.3 mmHg), 2.986 g) of the formula shown below.

reactant | 2-allyloxyethanol | 23.4 mmol, 2.5 mL | C(C=C)OCCO | C5H10O2
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | 2-bromopropionyl chloride | 19.52 mmol, 2 mL | BrC(C(=O)Cl)C | C3H4BrClO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | allyloxyethyl 2-bromopropionate | 2.986 g | BrC(C(=O)OCCOCC=C)C | C8H13BrO3
